US07459263B2
Finally, 1-methoxythioxanthen-9-one (S-12) was prepared. A stirred mixture of 2.05 mL of a 2.0 M solution in heptane/THF of lithium diisopropylamide (4.1 mmol) diluted with 15 mL of anhydrous tetrahydrofuran was cooled to 0° C. and treated dropwise with a solution of 2-[(3-methoxyphenyl)thio]diethylbenzamide (0.4 g, 1.4 mmol) in 3 mL of anhydrous tetrahydrofuran. The reaction mixture was warmed to ambient and stirred for 2 h. Methanol (1 mL) was added, and the resulting solution was washed twice with water, and then with brine. The solution was dried (Na2SO4) and the solvent was removed at reduced pressure to deposit a yellow solid. This crude product was recrystallized from methanol to provide 0.15 g (45% of theory) of a yellow solid. 1H NMR (CDCl3): δ 4.00 (s, 3H), 7.92 (d, 1H), 7.12 (d, 1H), 7.50 (m, 4H), 8.45 (d, 1H).

reactant | lithium diisopropylamide | 4.1 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-[(3-methoxyphenyl)thio]diethylbenzamide | 1.4 mmol, 0.4 g | COC=1C=C(C=CC1)SC1=C(C(=O)N)C=CC(=C1CC)CC | C18H21NO2S
reactant | Methanol | 1 mL | CO | CH4O
solvent | heptane THF | CCCCCCC.C1CCOC1
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-methoxythioxanthen-9-one | COC1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C14H10O2S
